* RK7002BM NMOSFET model
* PKG: SST3,Vdss=60V,Id=0.25A
* Rds(on)=1.7ƒ¶
* Model Generated by ROHM
* All Rights Reserved
* Commercial Use or
* Resale Restricted
* Date: 2015/08/17
*****************D G S
.SUBCKT RK7002BM 1 2 3
M1   11 22 3 3 MOS_N
D1         3 1 DDS
R1        1 11 RTH 1.48
D2       22 11 DDG
R2        2 22 47.4
.MODEL MOS_N NMOS
+ LEVEL=3
+ L=2.0000E-6
+ W=.1
+ KP=12.023E-6
+ RS=30.000E-3
+ RD=0
+ VTO=1.7993
+ RDS=60.000E6
+ TOX=2.0000E-6
+ CGSO=80p
+ CGDO=8p
+ CBD=0
+ RG=0
+ N=2
+ RB=1.0000E-3
+ GAMMA=1.0
+ ETA=0.0012
+ KAPPA=0
+ NFS=11G
.MODEL DDS D
+ IS=212.70E-15
+ N=1.0946
+ RS=.1411
+ IKF=64.380E-3
+ CJO=7.6938E-12
+ M=.31322
+ VJ=.53283
+ BV=60
+ TT=13n
.MODEL DDG D
+ CJO=7.4454E-12
+ M=.48654
+ VJ=.51383
+ N=10000
+ FC=0.6
.MODEL RTH RES
+ TC1=0.0047
+ TC2=0.0000071
.ENDS RK7002BM
